US04018818
To a solution of 2-chloro-5-hydroxyphenylglyoxal (1.85 g) in methanol (37 ml) was added a solution of tert-butylamine (3.65 g) in methanol under cooling, further the sodium borohydride (0.57 g) was added in small portions, and the reaction mixture was stirred for 3 hours. The reaction mixture was evaporated and the residue acidified with 10% HCl, and washed with ether. The aqueous layer was made alkaline with K2CO3, and extracted with ether. The extract was dried with Na2SO4 and evaporated. The residue was recrystallized from iso-propylether n-hexane to give a 2-chloro-5-hydroxy-α-(tert-butylaminomethyl)-benzylalcohol, m.p. 162° - 163° C. Hydrochloride: m.p. 245° - 248° C.

reactant | 2-chloro-5-hydroxyphenylglyoxal | 1.85 g | ClC1=C(C=C(C=C1)O)C(=O)C=O | C8H5ClO3
reactant | tert-butylamine | 3.65 g | C(C)(C)(C)N | C4H11N
reactant | sodium borohydride | 0.57 g | [BH4-].[Na+]
solvent | methanol | 37 ml | CO | CH4O
product | 2-chloro-5-hydroxy-α-(tert-butylaminomethyl)-benzylalcohol | ClC1=C(C(CNC(C)(C)C)O)C=C(C=C1)O | C12H18ClNO2
